** sch_path: /home/sriram/MCD_VS/_runs/RUN_2026-06-30_16-33-54/parameters/tran_params/run_2627/ota-2stage-tran.sch
**.subckt ota-2stage-tran
Vdd v_dd GND 1.45
Vss v_ss GND 0
C1 v_out v_ss 1e-12 m=1
Vin v_in v_ss 0.9
I0 v_dd net1 dc 0 pwl(0 0 1.1u 0 1.2u 1.9999999999999998e-05)
.save v(v_in)
.save v(v_out)
x1 v_dd net1 v_out v_out v_in v_ss ota-2stage
**** begin user architecture code


.include /home/sriram/MCD_VS/cace/netlist/schematic/ota-2stage.spice
.temp 130
.param mc_ok = 1
.option SEED=12345

.ic v(v_out)=0
.option method=gear

.control
set num_threads=1
tran 0.005u 15u uic

let vout_limit=0.9*0.99
meas tran tcross WHEN v(v_out)=vout_limit
let vena_limit=0.5*1.45
meas tran tstart WHEN v(v_ena)=vena_limit
let tsettle=tcross-tstart

echo $&tsettle > /home/sriram/MCD_VS/_runs/RUN_2026-06-30_16-33-54/parameters/tran_params/run_2627/ota-2stage-tran_2627.data
.endc



.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ

**** end user architecture code
**.ends
.GLOBAL GND
.end
